US04875922
Preparation of 2-methyl-1-(pyrimid-5-yl)-propan-1-ol.
To a solution of n-butyl lithium (20 ml of 2.6 M, 52 mmol) in dry tetrahydrofuran (60 ml) at -78° C., was added a cold solution of 5-bromopyrimidine (6.36 g, 40 mmol) in dry tetrahydrofuran (30 ml) over a period of 5 minutes. After 10 minutes a cold solution of iso-butyraldehyde (2.88 g, 40 mmol) in dry tetrahydrofuran (30 ml) was added dropwise. The mixture was allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was poured into water and extracted with ether (2×100 ml). The organic layer was collected, washed with brine and dried over magnesium sulphate before removing the solvent. Flash chromatography (silica gel, petrol/ether elution) gave the product as a yellow oil.

reactant | n-butyl lithium | 52 mmol, 2.6 M, 20 ml | C(CCC)[Li]
reactant | 5-bromopyrimidine | 40 mmol, 6.36 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | iso-butyraldehyde | 40 mmol, 2.88 g | C(C(C)C)=O | C4H8O
reactant | water | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-methyl-1-(pyrimid-5-yl)-propan-1-ol | CC(C(O)C=1C=NC=NC1)C | C8H12N2O
